US08455663B2
A mixture of 2-(2-chloro-3-difluoromethyl-phenoxy)-butyronitrile (300 mg, 1.2 mmol), ethylene diamine (0.33 ml, 4.9 mmol) and sodium tetrasulfide (11 mg, 0.1 mmol) was stirred for 2 hrs at 50° C., then cooled to room temperature. Cold water (0° C.) was added to the reaction mixture. The resultant suspension was stirred for ca 15 minutes and then filtered, washed and dried to yield 2-[1-(2-chloro-3-difluoromethyl-phenoxy)-propyl]-4,5-dihydro-1H-imidazole (m.p. 96-97° C.); 1H-NMR (D6-DMSO) 1.0, t, 3H, 1.8-2.0 m, 2H; 3.42 vbr s, 4H, 4.8, dd, 1H, 6.51, br s, 1H, 7.2, t, 1H, 7.25, d, 1H, 7.32, d, 1H, 7.43, t, 1H.

reactant | 2-(2-chloro-3-difluoromethyl-phenoxy)-butyronitrile | 1.2 mmol, 300 mg | ClC1=C(OC(C#N)CC)C=CC=C1C(F)F | C11H10ClF2NO
reactant | ethylene diamine | 4.9 mmol, 0.33 ml | C(CN)N | C2H8N2
reactant | sodium tetrasulfide | 0.1 mmol, 11 mg | [S-]SS[S-].[Na+].[Na+]
solvent | water | O | H2O
product | 2-[1-(2-chloro-3-difluoromethyl-phenoxy)-propyl]-4,5-dihydro-1H-imidazole | ClC1=C(OC(CC)C=2NCCN2)C=CC=C1C(F)F | C13H15ClF2N2O
